US07112675B2
A. 2-Formyl-3-methylpyrrole/2-formyl-4-methylpyrrole
To 3.15 ml (41 mmol) of DMF at 0° C. under argon was added dropwise 3.81 ml (41 mmol) of phosphorus oxychloride. The cooling bath was removed and stirring was continued for 15 min. The solution was diluted with 9 ml of 1,2-dichloroethane and again cooled to 0° C. A solution of 3.0 g (37 mmol) of 3-methylpyrrole in 9 ml of 1,2-dichloroethane was added dropwise. The mixture was heated to reflux for 15 min, cooled to 0° C. and a solution of 16.2 g (203 mmol) of sodium acetate in 45 ml of water was added with vigorous stirring. The mixture was heated at reflux for 20 min and allowed to cool to room temperature. The aqueous layer was separated and extracted twice with methylene chloride. The combined organic layers were washed with sat NaHCO3 until pH 7, dried (MgSO4), and the solvent removed to yield a dark oily solid which was purified by flash chromatography (10% EtOAc:hexane) to afford 3.6 g (89%) of a 4:1 mixture of 2-formyl-3-methylpyrrole and 2-formyl-4-methylpyrrole as a pale yellow solid.

reactant | DMF | 41 mmol, 3.15 ml | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 41 mmol, 3.81 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-methylpyrrole | 37 mmol, 3.0 g | CC1=CNC=C1 | C5H7N
reactant | sodium acetate | 203 mmol, 16.2 g | C(C)(=O)[O-].[Na+]
reactant | 2-formyl-3-methylpyrrole | C(=O)C=1NC=CC1C | C6H7NO
reactant | 2-formyl-4-methylpyrrole | C(=O)C=1NC=C(C1)C | C6H7NO
solvent | 1,2-dichloroethane | 9 ml | ClCCCl | C2H4Cl2
solvent | water | 45 ml | O | H2O
product | 2-Formyl-3-methylpyrrole 2-formyl-4-methylpyrrole | C(=O)C=1NC=CC1C.C(=O)C=1NC=C(C1)C | 2C6H7NO
